US08791132B2
To a solution of 2-(8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol (200 mg, 0.651 mmol) in acetonitrile (4 mL), potassium carbonate (270 mg, 1.95 mmol) and 1-bromopropan-2-ol (135 mg, 0.977 mmol) were added and stirred the reaction mixture at 100° C. for 2 h. The reaction mixture was diluted with water (10 mL) and extracted with EtOAc (3×20 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by reverse phase HPLC to yield 1-[5-(2-hydroxy-2-pyridin-4-yl-ethyl)-8-methyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indol-2-yl]-propan-2-ol. 1H NMR, (CDCl3, freebase) δ (ppm): 8.58 (s, 2H), 7.36 (m, 2H), 7.2 (m, 2H), 7.02 (d, 1H), 5.1 (s, 1H), 4.3 (m, 1H), 4.1 (m, 2H), 4.0 (m, 2H), 3.56 (m, 1H), 3.37 (m, 1H), 3.1-3.3 (m, 2H), 2.8 (m, 2H), 2.42 (s, 3H), 1.2 (d, 3H). Separation by chiral HPLC provides diastereomers II-83a-d.

reactant | 2-(8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol | 0.651 mmol, 200 mg | CC1=CC=2C3=C(N(C2C=C1)CC(O)C1=CC=NC=C1)CCNC3 | C19H21N3O
reactant | potassium carbonate | 1.95 mmol, 270 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopropan-2-ol | 0.977 mmol, 135 mg | BrCC(C)O | C3H7BrO
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
product | 1-[5-(2-hydroxy-2-pyridin-4-yl-ethyl)-8-methyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indol-2-yl]-propan-2-ol | OC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)CC(C)O)C2=CC=NC=C2 | C22H27N3O2
